US08735411B2
3-amino-6,7,8,9-tetrahydro-5H-benzo[7]annulene-5-one
A solution of 3-nitro-6,7,8,9-tetrahydro-5H-benzo[7]annulene-5-one (CAS #7507-93-9, 2 g, 9.75 mmol), palladium (413 mg, 10% on carbon, 0.4 mmol) in methanol (25 ml) under the hydrogen atmosphere (60 PSI) was stirred at room temperature for 16 hrs. The mixture was filtered through a layer of diatomaceous earth, washed with methanol and concentrated under reduced pressure to provide the title compound. 1H NMR (CDCl3) δ 1.77-1.84 (m, 4H), 2.67-2.73 (m, 2H), 2.82 (t, J=6.10 Hz, 2H), 6.75 (dd, J=8.14, 2.71 Hz, 1H), 6.99 (d, J=8.48 Hz, 1H), 7.05 (d, J=2.71 Hz, 1H). MS (M+H)+ m/z 175.

reactant | 3-nitro-6,7,8,9-tetrahydro-5H-benzo[7]annulene-5-one | 9.75 mmol, 2 g | [N+](=O)([O-])C1=CC2=C(CCCCC2=O)C=C1 | C11H11NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium | 0.4 mmol, 413 mg | [Pd] | Pd
product | 3-amino-6,7,8,9-tetrahydro-5H-benzo[7]annulene-5-one | NC1=CC2=C(CCCCC2=O)C=C1 | C11H13NO
